US03966945
Alternatively, 0.1 mole of 2-(chloromethyl)pyridine and 0.11 mole of sodium methoxide are used in the above procedure to give 2-(methoxymethyl)pyridine.

reactant | 2-(chloromethyl)pyridine | 0.1 mole | ClCC1=NC=CC=C1 | C6H6ClN
reactant | sodium methoxide | 0.11 mole | C[O-].[Na+]
product | 2-(methoxymethyl)pyridine | COCC1=NC=CC=C1 | C7H9NO
